US08022062B2
7-Chloro-6-(4-trifluoromethoxybenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
To a 4:1 mixture of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (102 mg, 0.27 mmol) in methanol (1.7 mL) under nitrogen, add potassium hydroxide (0.9 g, 16.1 mmol) at ambient temperature. When the mixture becomes homogenous, heat at 55-60° C. for 2-3 h, until TLC shows the disappearance of starting material. Cool to ambient temperature, add aqueous saturated ammonium chloride solution, extract three times with diethyl ether, dry over anhydrous MgSO4, and concentrate in vacuo. Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine in anhydrous DCM (2 mL) under nitrogen. Add with stirring DBU (80 μL, 0.532 mmol) and 4-(trifluoromethoxy)benzyl bromide (77 μL, 0.53 mmol) at ambient temperature and allow the reaction to continue overnight. Dilute with aqueous saturated ammonium chloride solution, extract three times with diethyl ether, dry over anhydrous MgSO4, and concentrate in vacuo. Treat a solution of the crude 3-tert-butoxycarbonyl-7-chloro-6-(4-trifluoromethoxy-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine in DCM (2 mL) with 2M hydrogen chloride in ether (excess) and continue stirring until TLC shows consumption of starting material. Concentrate in vacuo and triturate the obtained solid with ether/pentane (10:90). Purify by preparative TLC eluting with 19:1 DCM/saturated ammonia in methanol and convert to the hydrochloride by following a method similar to the General Procedure 2-2 to give the title compound as a white solid (48 mg, 43%). MS (APCI+) m/z: 388 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.27 mmol, 102 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2Cl)Cl)SC(N(C)C)=O | C18H24Cl2N2O3S
reactant | potassium hydroxide | 16.1 mmol, 0.9 g | [OH-].[K+]
reactant | DBU | 0.532 mmol, 80 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-(trifluoromethoxy)benzyl bromide | 0.53 mmol, 77 μL | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
solvent | methanol | 1.7 mL | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 7-Chloro-6-(4-trifluoromethoxybenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | 48 mg, 43% | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C18H17ClF3NOS.ClH/c19-16-6-3-13-7-9-23-10-8-15(13)17(16)25-11-12-1-4-14(5-2-12)24-18(20,21)22;/h1-6,23H,7-11H2;1H
